US07648985B2
(i) 2-Chloro-ethanesulfonic acid 4-cyano-benzylamide
Chloroethane sulfonyl chloride (4.8 g, 0.029 mol) was added drop by drop to solution of 4-aminomethyl benzonitrile methan sulphonic acid salt acid (7 g, 0.029 mol) and pyridine (24 ml) in dry dichloromethane (25 ml) at −5° C. under nitrogen atmosphere. The reaction mixture was stirred at RT for 2 days and then partitioned between water and dichloromethane. The organic layer was washed with water and brine and dried over sodium sulfate. Solvent was evaporated under reduced pressure and the residue was purified by column chromatography over silica gel using 1% methanol in chloroform as eluent to give mixture of the sub-title compound and ethenesulfonic acid 4-cyano-benzylamide (3.4 g) as a solid. This was directly taken for next step without further purification.

reactant | Chloroethane sulfonyl chloride | 0.029 mol, 4.8 g | ClCCS(=O)(=O)Cl | C2H4Cl2O2S
reactant | 4-aminomethyl benzonitrile methan sulphonic acid salt | 0.029 mol, 7 g | CS(=O)(=O)O.NCC1=CC=C(C#N)C=C1
reactant | pyridine | 24 ml | N1=CC=CC=C1 | C5H5N
reactant | ethenesulfonic acid 4-cyano-benzylamide | 3.4 g | C(#N)C1=CC=C(CNS(=O)(=O)C=C)C=C1 | C10H10N2O2S
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 2-Chloro-ethanesulfonic acid 4-cyano-benzylamide | C(#N)C1=CC=C(CNS(=O)(=O)CCCl)C=C1 | C10H11ClN2O2S
